US03987047
5-Methoxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester
2 gm (6.65 millimols) of 5-hydroxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester were converted into the sodium salt in 50 ml of absolute tetrahydrofuran with 0.32 gm (7 millimols) of 50% sodium hydride, and the salt was methylated with 0.43 ml (7 millimols) of methyl iodide.

reactant | 5-hydroxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | 6.65 millimols, 2 gm | C(C)OC(=O)N1CC(C2=NC=3C=CC=CC3C(=C2CC1)C)O | C17H20N2O3
reactant | sodium | [Na] | Na
reactant | sodium hydride | 7 millimols, 0.32 gm | [H-].[Na+]
reactant | methyl iodide | 7 millimols, 0.43 ml | CI | CH3I
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-Methoxy-1,2,4,5-tetrahydro-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester | C(C)OC(=O)N1CC(C2=NC=3C=CC=CC3C(=C2CC1)C)OC | C18H22N2O3
